US04515948
A solution of 2.75 g. of 2,4-diamino-5-(4-amino-3,5-dimethoxy-benzyl)-pyrimidine in 50 ml. of methanol was treated with 10 ml. of 1N hydrochloric acid. The resulting precipitate was dissolved by warming and the solution evaporated at 60° C. under vacuum to about 20 ml. After standing at room temperature for 2 hours, the precipitate was removed by filtration with suction, washed with methanol and dried, whereby there was obtained 2,4-diamino-5-(4-amino-3,5-dimethoxybenzyl)-pyrimidine hydrochloride having a melting point of 296° C. (decomposition).

reactant | 2,4-diamino-5-(4-amino-3,5-dimethoxy-benzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)N)OC | C13H17N5O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | 2,4-diamino-5-(4-amino-3,5-dimethoxybenzyl)-pyrimidine hydrochloride | Cl.NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)N)OC | InChI=1S/C13H17N5O2.ClH/c1-19-9-4-7(5-10(20-2)11(9)14)3-8-6-17-13(16)18-12(8)15;/h4-6H,3,14H2,1-2H3,(H4,15,16,17,18);1H
